US06258775B1
(b) Ethyl 3-{3-[hydroxyamino-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)methyl]phenyl}acrylate.
A solution of (3-iodophenyl)-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)methanone oxime (320 mg, 0.7 mmol), palladium diacetate (20 mg, 89 μmol), tributylamine (392 μl, 1.7 mmol) and ethyl acrylate (78 μl, 0.7 mmol) in acetonitrile (10 ml) is heated for 4 h at 80° C. The reaction medium is extracted with ethyl ether and washed with water. After drying, the organic phase is concentrated on a rotary evaporator under vacuum at 40° C. The product is purified by flash- chromatography on a column of silica.

reactant | (3-iodophenyl)-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)methanone oxime | 0.7 mmol, 320 mg | IC=1C=C(C=CC1)C(=NO)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C22H26INO
reactant | tributylamine | 1.7 mmol, 392 μl | C(CCC)N(CCCC)CCCC | C12H27N
reactant | ethyl acrylate | 0.7 mmol, 78 μl | C(C=C)(=O)OCC | C5H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | palladium diacetate | 89 μmol, 20 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | Ethyl 3-{3-[hydroxyamino-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)methyl]phenyl}acrylate | ONC(C=1C=C(C=CC1)C=CC(=O)OCC)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C27H35NO3
